US04303583
2,3-Dihydro-1-(2-methyl-1-oxo-2-propenyl)-1H-indole-2-carboxylic acid
A mixture of 2,3-dihydro-1-(2-methyl-1-oxo-2-propenyl)-1H-indole-2-carboxylic acid ethyl ester (3.9 g., 15.0 mmole), 80% aqueous dimethylsulfoxide (90 ml.) and potassium hydroxide (86% pellets, 1.3 g., 19.9 mmole), was stirred under nitrogen atmosphere for 2 days at room temperature, then evaporated under reduced pressure on a rotary evaporator to give an oily residue. The residue was dissolved in water (any insoluble material was removed by filtration), and the aqueous solution was made acidic by careful addition of dilute hydrochloric acid, whereby an oil separated. The oily product was extracted with ether, and the ether extract was washed with water (3 times), then with saline. The ether solution was dried over anhydrous magnesium sulfate, and evaporated under reduced pressure to give an oily product. The oil was dissolved in dry acetonitrile, and dicyclohexylamine was added dropwise until the pH of the solution reached approximately 8.5. A crystalline precipitate was filtered. The mixture was allowed to stand overnight at room temperature, and the precipitate was collected on a filter, and the filter residue was washed with ether several times to give 3.46 g. of 2,3-dihydro-1-(2-methyl-1-oxo-2-propenyl)-1H-indole-2-carboxylic acid dicyclohexylamine salt (m.p. 185°-190°). Recrystallization from 2-propanol gave 3.1 g. (50.0%) of the title product as the dicyclohexylamine salt (m.p. 193°-195°) [m.p. means melting point in degrees centigrade, uncorrected.]

reactant | 2,3-dihydro-1-(2-methyl-1-oxo-2-propenyl)-1H-indole-2-carboxylic acid ethyl ester | 15.0 mmole, 3.9 g | C(C)OC(=O)C1N(C2=CC=CC=C2C1)C(C(=C)C)=O | C15H17NO3
reactant | potassium hydroxide | 19.9 mmole, 1.3 g | [OH-].[K+]
reactant | dicyclohexylamine | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | 2,3-dihydro-1-(2-methyl-1-oxo-2-propenyl)-1H-indole-2-carboxylic acid dicyclohexylamine salt | C1(CCCCC1)NC1CCCCC1.CC(C(=O)N1C(CC2=CC=CC=C12)C(=O)O)=C
solvent | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | dimethylsulfoxide | 90 ml | CS(=O)C | C2H6OS
product | 2,3-Dihydro-1-(2-methyl-1-oxo-2-propenyl)-1H-indole-2-carboxylic acid | 50.0% | CC(C(=O)N1C(CC2=CC=CC=C12)C(=O)O)=C | C13H13NO3
